US05364871
A mixture of 4-(6-acetylaminomethylpyridin-2-yl)-2-(3-methylthioureido)thiazole (1.5 g) and methyl iodide (0.45 ml) in a solution of methanol (15 ml) and tetrahydrofuran (8 ml) was heated under reflux for 9 hours. The solvent was removed by concentration and the residue was triturated with ethyl acetate to give 4-(6-acetylaminomethylpyridin-2-yl)-2-[(methylamino)(methylthio)methyleneamino]thiazole hydriodide (1.44 g).

reactant | 4-(6-acetylaminomethylpyridin-2-yl)-2-(3-methylthioureido)thiazole | 1.5 g | C(C)(=O)NCC1=CC=CC(=N1)C=1N=C(SC1)NC(=S)NC | C13H15N5OS2
reactant | methyl iodide | 0.45 ml | CI | CH3I
reactant | methanol | 15 ml | CO | CH4O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 4-(6-acetylaminomethylpyridin-2-yl)-2-[(methylamino)(methylthio)methyleneamino]thiazole hydriodide | 1.44 g | I.C(C)(=O)NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(SC)NC | InChI=1S/C14H17N5OS2.HI/c1-9(20)16-7-10-5-4-6-11(17-10)12-8-22-14(18-12)19-13(15-2)21-3;/h4-6,8H,7H2,1-3H3,(H,16,20)(H,15,18,19);1H
